Generated chess-board full-white power load
VINPUT dc_in 0 5.0
RFUSE dc_in dc_fused 0.06
RSWITCH dc_fused 5v 0.06
ILOAD 5v 0 4.29
.tran 1u 10u
.control
run
meas tran result_5v FIND v(5v) AT=5u
meas tran input_current FIND i(VINPUT) AT=5u
let result_current=-input_current
print result_current
if result_current < 4.28
echo "ASSERTION FAILED: result_current below 4.28"
quit 1
end
if result_current > 4.3
echo "ASSERTION FAILED: result_current above 4.3"
quit 1
end
if result_5v < 4.3
echo "ASSERTION FAILED: result_5v below 4.3"
quit 1
end
if result_5v > 4.63
echo "ASSERTION FAILED: result_5v above 4.63"
quit 1
end
quit 0
.endc
.end
